US05798373
(R)-N-[4-{1-(3-cyclopentyloxy-4-methoxyphenyl)-2-(4-pyridyl)ethyl}-phenyl]-N'-(4-fluorobenzyl) urea
To a solution of 3-[1-(R)-(3-cyclopentyloxy-4-methoxyphenyl)-2-(4-pyridyl)ethyl]aniline (508 mg, 1.3 mmol prepared as described in International Patent specification No. WO95/17386) in dichloromethane (15 ml) at 0° C. was added triethylamine (383 μl, 2.1 eq) and then phosgene (725 μl, 20% solution in toluene (1.9M)). After 20 min at this temperature 4-fluorobenzylamine (160 μl, 1.1 eq) was added and the mixture stirred at this temperature for 20 min and then at room temperature overnight. The reaction mixture was concentrated in vacuo and the residue partitioned between ethyl acetate:H2O (100 ml, 1:1, v:v). The aqueous phase was separated and the organic phase washed with water (50 ml), brine (50 ml), dried (MgSO4), filtered and concentrated in vacuo to give a yellow foam. This was subjected to column chromatography (SiO. 2.5% methanoldichloromethane) to afford the title compound as a pale yellow solid (306 mg, 46%). (Found: C, 72.38; H, 6.32; N, 7.64. C33H34N3O4F. 0.4 H2O requires C, 72.48; H, 6.41; N, 7.68%). δH (CDCl3) 1.54 (2H, br), 1.77 (6H, br), 3,22 (2H, d, J 7.1Hz), 3.72 (3H, s), 4.05 (1H, t, J 7.8Hz), 4.26 (2H, br d J 5.4Hz), 4.62 (1H, br), 5.6 (1H, br), 6.62-6.68 (3H, m), 6.84-6.92 (4H, m), 7.01 (1H, d, J 8.0Hz), 7.08-7.16 (3H, m), 7.26 (2H, s), and 8.30 (2H, d J 5.6Hz). m/z (El) 539 (M+) 332, (20), 255 (17), 254 (100), 124 (17), 93 (13), 69 (11), 41 (32).

reactant | 3-[1-(R)-(3-cyclopentyloxy-4-methoxyphenyl)-2-(4-pyridyl)ethyl]aniline | 1.3 mmol, 508 mg | C1(CCCC1)OC=1C=C(C=CC1OC)[C@H](CC1=CC=NC=C1)C=1C=C(N)C=CC1 | C25H28N2O2
reactant | triethylamine | 383 μl, 2.1 eq | C(C)N(CC)CC | C6H15N
reactant | phosgene | 1.9M, 725 μl | C(=O)(Cl)Cl | CCl2O
reactant | 4-fluorobenzylamine | 160 μl, 1.1 eq | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (R)-N-[4-{1-(3-cyclopentyloxy-4-methoxyphenyl)-2-(4-pyridyl)ethyl}-phenyl]-N'-(4-fluorobenzyl) urea | 306 mg, 46% | C1(CCCC1)OC=1C=C(C=CC1OC)[C@H](CC1=CC=NC=C1)C1=CC=C(C=C1)NC(=O)NCC1=CC=C(C=C1)F | C33H34FN3O3
